US04956372
6-Methanesulfonylamino-1,2,3,4-tetrahydroquinoline-8-carboxylic acid
The title compound was prepared (79.9% yield) from methyl 6-amino-1,2,3,4-tetrahydroquinoline-8-carboxylate by the same procedure as in Example 32 by using methanesulfonyl chloride instead of p-toluenesulfonyl chloride. This compound was recrystallized form ethanol to give yellow crystals, mp 244° C.

reactant | methyl 6-amino-1,2,3,4-tetrahydroquinoline-8-carboxylate | NC=1C=C2CCCNC2=C(C1)C(=O)OC | C11H14N2O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 6-Methanesulfonylamino-1,2,3,4-tetrahydroquinoline-8-carboxylic acid | 79.9% yield | CS(=O)(=O)NC=1C=C2CCCNC2=C(C1)C(=O)O | C11H14N2O4S
